US05726165
(S)-Glycidyl-2-benzyloxyphenol
A mixture of 2-benzyloxyphenol (900 mg, 4.5 mMol) and potassium carbonate (1.87 g, 13.5 mMol) in acetone (45 ml) was heated under reflux for 15 mins. (S)-Glycidyl-3-nitrobenzenesulphonate (1.0 g, 4.5 mMol) was added and the reaction mixture was heated under reflux for 23 hours. After cooling, the reaction mixture was filtered and the solvent was evaporated. The residue was partitioned between ethyl acetate and water. The organic fractions were combined, washed with water and brine, dried and evaporated to give the title compound as an oil.

reactant | 2-benzyloxyphenol | 4.5 mMol, 900 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
reactant | potassium carbonate | 13.5 mMol, 1.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-Glycidyl-3-nitrobenzenesulphonate | 4.5 mMol, 1.0 g | C([C@@H]1CO1)OS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | (S)-Glycidyl-2-benzyloxyphenol | C([C@H]1CO1)C=1C(=C(C=CC1)O)OCC1=CC=CC=C1 | C16H16O3
